Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / Zantac / Penicillins
 
Attending: ___.
 
Chief Complaint:
headache, backpain 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ F pmh migraine headaches, asthma, IDDM, HTN, HLD who with 
one week history of headache, back pain and three days of right 
flank pain. She states she has a mild headache, cough, feels 
generally weak. She also reports lower back pain. She states the 
back pain began 4 days ago when she bent over. Denies any focal 
numbness or weakness.  
 Patient states 2 weeks prior to presentation to the ED, she had 
similar symptoms of back pain and headache. She was hydrated 
with IVF and discharged home. About 1 week prior to presentation 
to the ED, headache returned and she describes it as starting 
behind the right eye and radiating through the back of her head 
with sore neck muscles, light sensitivity and nausea. Denies 
aura or vomiting.  
 Patient also developed symptoms of dysuria three days prior to 
presentation to the ED. She endorsed two episodes of hematuria, 
suprapubic pain, and right flank pain.  
 Patient endorses back pain in the cervical and lumbar regions. 
She endorses the pain has worsened over the past week, is tender 
to the touch. Denies recent falls or trauma. Patient has a 
history of multiple abdominal surgeries including 
hystercotomy/splinoorphrtomy in ___ complicated by 11 
intestinal surgeries due to perforated bowel.  
 In the ED, initial VS were temp 96.0 HR 103 BP 142/78 RR ___ 
RA  
 Exam in the ED demonstrated CV RRR, lungs CTA, mild diffuse 
abdominal pain with no rebound. Patient was treated with APAP 
1000, 650 mg, Ketorolac 15 mg 2X,clonazepam 1 mg, Montelukast 10 
mg, Fluoxetine 20 mg and 2U insulin for a blood glucose of 203.  

 Patient was given 3L NS. Labs showed an elevated creatnine to 
1.7 on admission that downtrended to 1.3 after resuscitation 
with 3 L NS. and low platlet count to 71; her platelet count has 
been down trending for the past year. UA 2X was contaminated. 
Flu was negative. Imaging showed CXR was normal, no focal 
consolidation, effusion, or pneumothorax and no free air under 
the diaphragm.  
 Transfer VS were Temp 97.8F HR 81 BP 110/63 RR 18 96% RA  
 Decision was made to admit to medicine for further management.  

 On arrival to the floor, patient reports ___ pain in head, 
neck, cervical and lumbar spine, right sided flank and upper 
quadrant pain.  
 abdominal pain, nausea, vomiting, diarrhea, constipation, 
BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
PMH: Chronic Back Pain, Asthma, DM, Hyperlipidemia, HTN, 
migraine, elevated BMI, OA, rosacea, OSA, Followed by 
Psychiatry, diverticulosis

PSH: History of 11 prior abdominal procedures including ovarian 
procedure, bowel perforation, Hysterectomy, Ovaryiectomy 
w/single remaining ovary
 
Social History:
___
Family History:
Family history is notable for cardiac disease of her sisters. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
============================
 VS - Temp 98.3F BP 128/67 HR 77 RR 18 99% RA Blood glucose 141  

 Weight 178 kg  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, poor dentition  
 NECK: No JVD  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: RUQ and right flank TTP, +BS,no rebound/guarding  
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN II-XII intact  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM: 
=========================
VS - Temp 98.3F BP 128/67 HR 77 RR 18 99% RA Blood glucose 141  
 Weight 178 kg  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, poor dentition  
 NECK: No JVD  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: RUQ and right flank TTP, +BS,no rebound/guarding  
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN II-XII intact  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

 
Pertinent Results:
ADMISSION LABS: 
===================
___ 05:43PM BLOOD WBC-4.7 RBC-4.14 Hgb-12.0 Hct-37.0 MCV-89 
MCH-29.0 MCHC-32.4 RDW-14.7 RDWSD-47.8* Plt Ct-71*
___ 05:43PM BLOOD Neuts-52.1 ___ Monos-14.0* 
Eos-0.4* Baso-0.6 Im ___ AbsNeut-2.45 AbsLymp-1.52 
AbsMono-0.66 AbsEos-0.02* AbsBaso-0.03
___ 05:43PM BLOOD Plt Ct-71*
___ 05:43PM BLOOD Glucose-164* UreaN-28* Creat-1.6* Na-135 
K-4.9 Cl-98 HCO3-24 AnGap-18

DISCHARGE LABS: 
==================
___ 07:15AM BLOOD Glucose-88 UreaN-18 Creat-1.2* Na-137 
K-4.1 Cl-103 HCO3-23 AnGap-15
___ 07:15AM BLOOD Albumin-3.5 Calcium-8.3* Phos-2.5* 
Mg-1.4*

RESULTS: 
==========
Cardiovascular Report ECG Study Date of ___  4:26:34 ___ 

Sinus rhythm. RSR' pattern in lead V1 with early precordial R 
wave transition of unclear significance but which could be 
related to variations in precordial lead positioning. Compared 
to the previous tracing of ___ the findings are similar 
overall. 

  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
95 134 91 ___   20 0 40 
 
CHEST (PA & LAT) Study Date of ___  
IMPRESSION: 
No acute intrathoracic process. 

 
Brief Hospital Course:
___ F pmh migraine headaches, asthma, IDDM, HTN, HLD who with 
one week history of headache, back pain and three days of 
dysuria, right flank pain. 
 
# Migraine headache: patient has history of migraine headaches. 
She received ketorolac 15mg X2 in ED, and sumatriptan with some 
relief. Headache was resolved at time of discharge, with no red 
flag symptoms, and to be followed by PCP. 

# Back pain: history of chronic back pain. No recent falls or 
trauma. No spinous process tenderness or alarm symptoms.  
Improved with tizanidine, APAP, lidocaine patch. 

# ___: Baseline Cr 0.8-1.0; Mild renal cortical atrophy 
bilaterally. On admission, Cr was 1.7, which improved to 1.2 
with IVF. 
  
# Steatosis: hx steatosis on RUQ. Low platelets. ALT elevated; 
AST, Tbili, Alkphos normal. To be followed by PCP. 

# Thrombocytopenia: Plts downtrending over past year. Stable at 
her baseline around 80. Followed by Heme Dr. ___, MD. ___ 
etiology is ITP vs. MDS vs. progressive chronic liver disease.  

# ASTHMA: continued on home Fluctisone  

# DIABETES MELLITUS: Last hgA1C 7.7%. On Metformin, Glipizide. 
Maintained on insulin while inpatient (Humalog plus 10 units 
lantus at bedtime) .
 
# HYPERLIPIDEMIA: Last LDL 63 in ___. Continued on home 
simivstatin 40 mg.  
 
# HYPERTENSION: remained normotensive on home meds. 

======================================
Transitional Issues: 
======================================
- Recommend repeat RUQ US or CT in outpatient setting to assess 
worsening steatosis or NASH cirrhosis 
- Chronic lower back pain; patient was continued on gabapentin + 
tizanidine
- Thrombocytopenia stable. Followed by Dr. ___. Concern for 
worsening liver disease.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium (Liquid) 100 mg PO BID:PRN constipation  
2. Flovent HFA (fluticasone) 220 mcg/actuation 2 puffs BID 
3. Glargine 20 Units Bedtime
Humalog 10 Units Breakfast
Humalog 14 Units Lunch
Humalog 14 Units Dinner
4. Januvia (sitaGLIPtin) 100 mg oral DAILY 
5. Acetaminophen 1000 mg PO Q8H:PRN pain  
6. QUEtiapine Fumarate 200 mg PO QHS 
7. Albuterol 0.083% Neb Soln 1 NEB IH Q6H 
8. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
9. Cetirizine 10 mg PO DAILY 
10. ClonazePAM 1 mg PO BID 
11. DiCYCLOmine 10 mg PO BID 
12. Fluoxetine 40 mg PO DAILY 
13. fluticasone 50 mcg/actuation nasal DAILY 
14. Furosemide 20 mg PO ONCE 
15. Gabapentin 600 mg PO TID 
16. GlipiZIDE XL 10 mg PO BID 
17. Ketoconazole Shampoo 1 Appl TP ASDIR 
18. MetFORMIN (Glucophage) 1000 mg PO DAILY 
19. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
20. Montelukast 10 mg PO DAILY 
21. Omeprazole 20 mg PO BID 
22. Simvastatin 10 mg PO QPM 
23. Tizanidine 2 mg PO TID:PRN muscle spasms  

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain  
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H 
3. Cetirizine 10 mg PO DAILY 
4. ClonazePAM 1 mg PO BID 
5. DiCYCLOmine 10 mg PO BID 
6. Docusate Sodium (Liquid) 100 mg PO BID:PRN constipation  
7. Fluoxetine 40 mg PO DAILY 
8. Gabapentin 600 mg PO TID 
9. Glargine 20 Units Bedtime
Humalog 10 Units Breakfast
Humalog 14 Units Lunch
Humalog 14 Units Dinner
10. Montelukast 10 mg PO DAILY 
11. Omeprazole 20 mg PO BID 
12. Simvastatin 10 mg PO QPM 
13. Tizanidine 2 mg PO TID:PRN muscle spasms  
14. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
15. Flovent HFA (fluticasone) 220 mcg/actuation 2 puffs BID 
16. fluticasone 50 mcg/actuation NASAL DAILY 
17. Furosemide 20 mg PO ONCE 
18. GlipiZIDE XL 10 mg PO BID 
19. Januvia (sitaGLIPtin) 100 mg oral DAILY 
20. Ketoconazole Shampoo 1 Appl TP ASDIR 
21. MetFORMIN (Glucophage) 1000 mg PO DAILY 
22. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
23. QUEtiapine Fumarate 200 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
Migraine headache 
Chronic lower back pain 
Steatosis
Thrombocytopenia

CHRONIC: 
Asthma 
IDDM 
HTN
HLD 

CHRONIC: 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ for fatigue and lower back pain. We 
were concerned you had a urinary tract infection. We tested your 
urine, you do not have a urinary tract infection. 

You were also admitted with headache and back pain. We gave you 
a medication called sumatriptan to stop your headache. It worked 
well, your headache improved. 

You were also having severe lower back pain. We treated your 
back pain with your home medication, gabapentin and tizanidine. 
Additionally we gave you a lidocaine patch to help with the 
pain. We think your lower back pain is muscular in nature. You 
should follow up with your primary care physician to discuss 
whether you need physical therapy to help with your back. 

Thank you for allowing us to participate in your care

___ care team 
 
Followup Instructions:
___